US08754178B2
In a separable flask, glycine ethyl ester hydrochloride (reagent grade) (279 g, 2 mol) was mixed into acetic anhydride (reagent grade) (800 ml). Then, to the mixture was added dropwise over 3 hours a solution of maleic anhydride (reagent grade) (196 g. 2 mol) in acetic anhydride (600 ml), with stirring at room temperature. After the dropwise addition, stirring was carried out for another 1 hour, and the resulting precipitate was collected by suction filtration, washed with ion-exchanged water, and dried. The product obtained (382 g), triethylamine (reagent grade) (404 g, 4 mol), and toluene (1200 ml) were charged into a separable flask equipped with a Dean-Stark trap. Then, the mixture was subjected to reaction at 120° C. for 2 hours with stirring. During the reaction, the water formed was removed with the Dean-Stark trap. After the reaction, toluene (300 ml) was added and the mixture was washed three times with ion-exchanged water. Then, the organic phase obtained was collected and subjected to removal of the toluene by evaporation using an evaporator and a vacuum dryer to give ethyl maleimidoacetate (165 g). (Yield: ca. 38%. The production of ethyl maleimidoacetate was verified by GPC measurement. The presence of ethyl maleimidoacetate was verified by 1H-NMR measurement using DMSO-d6. This compound is referred to hereinafter as Compound A4).

reactant | glycine ethyl ester hydrochloride | 2 mol, 279 g | Cl.C(C)OC(CN)=O
reactant | maleic anhydride | 2 mol, 196 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | triethylamine | 4 mol, 404 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic anhydride | 600 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 800 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | ethyl maleimidoacetate | 165 g, Yield: ca. 38% | C1(C=CC(N1CC(=O)OCC)=O)=O | C8H9NO4
